US06444823B1
N-[4-(1-Diphenylmethyl-piperidin-4-yl)-butyl]-N-ethyl-3-(pyridin-3-yl)-propionamide (Substance 68)
0.79 g (26.3 mmol) 80% sodium hydride are suspended in 30 ml DMF and 10.0 g (22.0 mmol) N-[4-(1-diphenylmethyl-piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-propionamide (substance 54) are added. The mixture is warmed to ca. 30° C. and, after addition of 0.2 g tetrabutyl ammonium iodide, this is stirred for one hour. Subsequently, 2.0 ml (24.1 mmol) ethyl iodide is added at RT (foam development) and the orange-brown suspension is stirred at RT overnight. Excess sodium hydride is destroyed by addition of 1 ml water and the mixture is concentrated under vacuum to a large extent. The residue is dispersed between 50 ml water and 100 ml dichloromethane. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified three times over silica gel with CHCl3/CH3OH (97/3 and 100/0 to 97/3 and 98/2) and crystallized from 10 ml 1-chlorobutane/petroleum ether (3/7) after drawing off the solvent. Beige colored crystals with an MP of 72-74° C.; yield 3.6 g (34%).

reactant | sodium hydride | 26.3 mmol, 0.79 g | [H-].[Na+]
reactant | N-[4-(1-diphenylmethyl-piperidin-4-yl)-butyl]-3-(pyridin-3-yl)-propionamide | 22.0 mmol, 10.0 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C30H37N3O
reactant | ethyl iodide | 24.1 mmol, 2.0 ml | C(C)I | C2H5I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium iodide | 0.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-[4-(1-Diphenylmethyl-piperidin-4-yl)-butyl]-N-ethyl-3-(pyridin-3-yl)-propionamide | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCN(C(CCC=1C=NC=CC1)=O)CC)C1=CC=CC=C1 | C32H41N3O
